US07906517B2
Ethyl 6-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyl]-hexanoate (140 mg) is dissolved in ethanol (4 ml), and thereto is added 1N-aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at room temperature for 2 hours. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 6-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyl]-hexanoic acid (137 mg). MS (m/z): 750 [M+H]+

reactant | Ethyl 6-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyl]-hexanoate | 140 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)CCCCCC(=O)OCC)CC)C=C(C1)C(F)(F)F)(F)F | C36H40F9N5O4
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 6-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyl]-hexanoic acid | 137 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)CCCCCC(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C34H36F9N5O4
